US05935956
2-(3-Chlorophenyl)-4,4a,5,6-tetrahydropyrido[3,4-h]cinnolin-3(2H)-one
Prepared according to the method described in Example 1 from methyl 5,6,7,8-tetrahydro-5-oxoisoquinoline-6-acetate hydrobromide and 3-chlorophenylhydrazine.

reactant | methyl 5,6,7,8-tetrahydro-5-oxoisoquinoline-6-acetate hydrobromide | Br.O=C1C=2C=CN=CC2CCC1CC(=O)OC
reactant | 3-chlorophenylhydrazine | ClC=1C=C(C=CC1)NN | C6H7ClN2
product | 2-(3-Chlorophenyl)-4,4a,5,6-tetrahydropyrido[3,4-h]cinnolin-3(2H)-one | ClC=1C=C(C=CC1)N1N=C2C3=C(CCC2CC1=O)C=NC=C3 | C17H14ClN3O
